US05728835
3-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide
Using 3-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide (230.1 mg, 0.50 mmol) and acetic anhydride (0.057 ml, 0.60 mmol), the procedure of Inventive Example 94 was repeated to obtain 245.2 mg (97.8%) of the title compound in a light yellow amorphous form.

reactant | 3-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide | 0.50 mmol, 230.1 mg | NC=1C=C(C(=O)N(C2=CC=C(C=C2)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1 | C28H30FN3O2
reactant | acetic anhydride | 0.60 mmol, 0.057 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide | 245.2 mg, 97.8% | C(C)(=O)NC=1C=C(C(=O)N(C2=CC=C(C=C2)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1 | C30H32FN3O3
